US09290485B2
a) 1-(4-Isopropylcarbamoyl-benzyl)-1H-pyrazole-4-carboxylic acid ethyl ester
To a solution of 1-(4-carboxy-benzyl)-1H-pyrazole-4-carboxylic acid ethyl ester (50 mg, 0.153 mmol) in DCM (1 ml) were added DIPEA (40.1 μl, 0.230 mmol), HBTU (63.9 mg, 0.168 mmol) and isopropylamine (13 μl, 0.153 mmol). Reaction mixture was stirred over a weekend at 23° C. The solvent was evaporated, and the residual oil was dissolved in ethyl acetate and washed with 1M hydrochloric acid, saturated sodium bicarbonate solution and brine. Organic layer was dried (sodium sulfate), filtered and evaporated to afford the title compound. HPLC (method G) Rt=1.761 min; UPLC (method F) Rt=0.79 min, MS [M+H]+316.3.

reactant | 1-(4-carboxy-benzyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 0.153 mmol, 50 mg | C(C)OC(=O)C=1C=NN(C1)CC1=CC=C(C=C1)C(=O)O | C14H14N2O4
reactant | DIPEA | 0.230 mmol, 40.1 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HBTU | 0.168 mmol, 63.9 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | isopropylamine | 0.153 mmol, 13 μl | C(C)(C)N | C3H9N
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-Isopropylcarbamoyl-benzyl)-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NN(C1)CC1=CC=C(C=C1)C(NC(C)C)=O | C17H21N3O3
